US07354932B2
5-bromo-5,6,7,8-tetrahydroquinoxaline (2.75 g, 12.9 mmol) and sodium azide (1.68 g, 25.8 mmol) were dissolved in DMF (50 mL) under nitrogen atmosphere and the reaction mixture was warmed to 60° C. for 2 days. The mixture was cooled to room temperature and poured over water (500 mL), and was extracted with CH2Cl2 (3×300 mL). The organic extracts were washed with brine (2×200 mL), dried and concentrated in vacuo. The crude material was purified by flash column chromatography on silica gel using 1:1 EtOAc/hexanes to afford 2.19 g (97%) of 5-azido-5,6,7,8-tetrahydroquinoxaline as a yellow liquid: 1H NMR (CDCl3): δ 1.80-1.96 (m, 1H), 2.00-2.10 (m, 3H), 2.75-3.06 (m, 2H), 4.74 (t, 1H, J=6.5 Hz), 8.44 (d, 1H, J=3 Hz), 8.45 (d, 1H, J=3 Hz); 13C NMR (CDCl3): δ 18.6, 28.9, 31.7, 60.2, 142.6, 144.3, 150.3, 153.6.

reactant | 5-bromo-5,6,7,8-tetrahydroquinoxaline | 12.9 mmol, 2.75 g | BrC1C=2N=CC=NC2CCC1 | C8H9BrN2
reactant | sodium azide | 25.8 mmol, 1.68 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-azido-5,6,7,8-tetrahydroquinoxaline | 2.19 g, 97% | N(=[N+]=[N-])C1C=2N=CC=NC2CCC1 | C8H9N5
